US08071595B2
To a stirred solution of 5-(benzo[c][1,2,5]thiadiazol-5-yl)-2,2-dimethylfuran-3(2H)-one (0.5 g, 2.164 mmol) in CHCl3 (15 mL), NBS (0.462 g, 2.590 mmol) was added portionwise at RT. The reaction mixture was then stirred for 2 h and diluted with DCM (10 mL). The combined organic layers were washed with water (5 mL) and brine (10 mL), dried over Na2SO4, filtered, and then concentrated in vacuo to obtain the crude product. The crude material was purified via silica gel column chromatography to afford 5-(benzo[c][1,2,5]thiadiazol-5-yl)-4-bromo-2,2-dimethylfuran-3(2H)-one (0.45 g, 69%) as a yellow oil.

reactant | 5-(benzo[c][1,2,5]thiadiazol-5-yl)-2,2-dimethylfuran-3(2H)-one | 2.164 mmol, 0.5 g | N=1SN=C2C1C=CC(=C2)C2=CC(C(O2)(C)C)=O | C12H10N2O2S
reactant | NBS | 2.590 mmol, 0.462 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CHCl3 | 15 mL | C(Cl)(Cl)Cl | CHCl3
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-(benzo[c][1,2,5]thiadiazol-5-yl)-4-bromo-2,2-dimethylfuran-3(2H)-one | 0.45 g, 69% | N=1SN=C2C1C=CC(=C2)C2=C(C(C(O2)(C)C)=O)Br | C12H9BrN2O2S
